US08044196B2
Preparation of 2-methyl-4-(4-methyl-1-piperazinyl)-10H-thieno-[2,3-b][1,5]benzodiazepine
4-Amino-2-methyl-10H-thieno[2,3-b][1,5] benzodiazepine hydrochloride (100 g) is taken in N-methyl piperazine (500 ml). Reaction mixture is heated at 120° C. for 3 hours. The reaction mass is cooled and acetonitrile (400 ml) is added under stirring for 30 minutes. Water (500 ml) is added and the mixture is cooled up to room temperature and stirred to precipitate the solid. The solid is filtered off, washed with acetonitrile (100 ml) and dried at ambient temperature to obtain the crude title compound (64 g).

reactant | 4-Amino-2-methyl-10H-thieno[2,3-b][1,5] benzodiazepine hydrochloride | 100 g | Cl.NC=1C2=C(NC3=C(N1)C=CC=C3)SC(=C2)C
reactant | acetonitrile | 400 ml | C(C)#N | C2H3N
reactant | Water | 500 ml | O | H2O
reactant | N-methyl piperazine | 500 ml | CN1CCNCC1 | C5H12N2
product | 2-methyl-4-(4-methyl-1-piperazinyl)-10H-thieno-[2,3-b][1,5]benzodiazepine | 64 g | CC1=CC2=C(NC3=C(N=C2N2CCN(CC2)C)C=CC=C3)S1 | C17H20N4S
